US07470705B2
Step 2. Preparation of (+/−)-cis-4-Acetylamino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Add isopropyl chloroformate (8.50 mL, 8.50 mmol) to a solution of (+/−)-cis-N-(6-methoxy-2-methyl-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)acetamide (0.404 g, 1.702 mmol), pyridine (1.370 mL, 17.02 mmol) in dichloromethane (10 mL) at 0° C. and slowly warm to room temperature. After 12 h, remove the solvent under reduced pressure. Purify the crude material using silica gel chromatography, eluting with ethyl acetate (neat), to afford the title compound (0.496 g, 91%). MS (ES+): 322 (M+H).

reactant | isopropyl chloroformate | 8.50 mmol, 8.50 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | (+/−)-cis-N-(6-methoxy-2-methyl-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)acetamide | 1.702 mmol, 0.404 g | COC=1N=C2[C@@H](C[C@@H](NC2=CC1)C)NC(C)=O | C12H17N3O2
reactant | pyridine | 17.02 mmol, 1.370 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-Acetylamino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.496 g, 91% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)NC(C)=O)C | C16H23N3O4
